US09024027B2
A mixture of methyl 2-(5,5-dimethyl-5′-nitro-2′-oxospiro[[1,3]dioxane-2,3′-indoline]-1′-yl)acetate (344 mg, 0.982 mmol) and 10% w/w Pd/C (cat. amount) in MeOH/EtOAc 1:1 (50 ml) was hydrogenated at 15 psi in a Parr apparatus for 2 hours. The catalyst was removed by filtration, and the residue was evaporated affording crude methyl 2-(5′-amino-5,5-dimethyl-2′-oxospiro[[1,3]dioxane-2,3′-indoline]-1′-yl)acetate (307 mg, 0.958 mmol, 98% yield) that was used in the following step without further purification. MS/ESI+ 321.0 [MH]+

reactant | methyl 2-(5,5-dimethyl-5′-nitro-2′-oxospiro[[1,3]dioxane-2,3′-indoline]-1′-yl)acetate | 0.982 mmol, 344 mg | CC1(COC2(C(N(C3=CC=C(C=C23)[N+](=O)[O-])CC(=O)OC)=O)OC1)C | C16H18N2O7
solvent | MeOH EtOAc | 50 ml | CO.CCOC(=O)C
catalyst | Pd/C | [Pd] | Pd
product | methyl 2-(5′-amino-5,5-dimethyl-2′-oxospiro[[1,3]dioxane-2,3′-indoline]-1′-yl)acetate | 0.958 mmol, 307 mg, 98% yield | NC=1C=C2C3(C(N(C2=CC1)CC(=O)OC)=O)OCC(CO3)(C)C | C16H20N2O5
